US07902401B2
To a solution of (2R)-2-[(tert-butoxycarbonyl)amino]-3-(difluoromethoxy)propanoic acid (780 mg, 3.05 mmol) and triethylamine (924 mg, 9.15 mmol) in THF (15 mL) at −78° C., isobutyl chloroformate (417.7 mg, 3.05 mmol) was added dropwise. After 30 minutes, (4-fluorobenzyl)amine (458 mg, 3.0 mmol) was added and the reaction mixture allowed to warm up to room temperature. The mixture was then diluted with ethyl acetate and washed with water, 0.5N HCl and Brine. The organic layer was dried over magnesium sulphate, concentrated, and triturated with hexanes (1:3) to give tert-butyl {(1R)-1-[(difluoromethoxy)methyl]-2-[(4-fluorobenzyl)amino]-2-oxoethyl}carbamate (870 mg, 78.7%) as a white solid. 1H NMR (300 MHz, CDCl3): δ(ppm) 7.23 (dd, 2H), 7.03 (t, 2H), 6.60 (b, 1H), 6.23 (wt, 1H), 5.24 (w, 1H), 4.3-4.51 (m, 4H), 4.02 (dd, 1H) and 1.45 (s, 9H).

reactant | (2R)-2-[(tert-butoxycarbonyl)amino]-3-(difluoromethoxy)propanoic acid | 3.05 mmol, 780 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)O)COC(F)F | C9H15F2NO5
reactant | triethylamine | 9.15 mmol, 924 mg | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 3.05 mmol, 417.7 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | (4-fluorobenzyl)amine | 3.0 mmol, 458 mg | FC1=CC=C(CN)C=C1 | C7H8FN
solvent | THF | 15 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-butyl {(1R)-1-[(difluoromethoxy)methyl]-2-[(4-fluorobenzyl)amino]-2-oxoethyl}carbamate | 870 mg, 78.7% | FC(OC[C@H](C(=O)NCC1=CC=C(C=C1)F)NC(OC(C)(C)C)=O)F | C16H21F3N2O4
